US09359329B2
To a solution of 1.1 g (3.7 mmol) of 6-chloro-N-cyclopentyl-N-(prop-2-en-1-yl)pyridine-3-sulfonamide in 15 mL of a mixture (1/1) of tBuOH and water are added, at room temperature, 1.2 g (10.3 mmol) of NMO and 0.52 mL (0.04 mmol) of 2.5% OsO4 in tBuOH. Stirring is continued for 12 hours. The medium is then diluted with 200 mL of water and extracted with Et2O (2×100 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. 0.92 g of 6-chloro-N-cyclopentyl-N-(2,3-dihydroxypropyl)pyridine-3-sulfonamide is obtained in the form of a brown solid, which is used without further purification in the following step.

reactant | 6-chloro-N-cyclopentyl-N-(prop-2-en-1-yl)pyridine-3-sulfonamide | 3.7 mmol, 1.1 g | ClC1=CC=C(C=N1)S(=O)(=O)N(CC=C)C1CCCC1 | C13H17ClN2O2S
reactant | NMO | 10.3 mmol, 1.2 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tBuOH | CC(C)(C)O | C4H10O
solvent | water | 200 mL | O | H2O
catalyst | OsO4 | 0.04 mmol, 0.52 mL | O=[Os](=O)(=O)=O
product | 6-chloro-N-cyclopentyl-N-(2,3-dihydroxypropyl)pyridine-3-sulfonamide | 0.92 g, Yield=75% | ClC1=CC=C(C=N1)S(=O)(=O)N(CC(CO)O)C1CCCC1 | C13H19ClN2O4S
